US07034039B2
A solution of 4-butoxy-6-ethoxy-3-chloromethyl-2-neopentyl-1(2H)-isoquinolinone (0.38 g, 1 mmol) and potassium phthalimide (0.28 g, 1.5 mmol) in N,N-dimethylformamide (10 ml) was stirred at room temperature for 6 h. The reaction mixture was poured into water and extracted with ethyl acetate. After washing the extract with water, the extract was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography to give 2-{(4-butoxy-6-ethoxy-2-neopentyl-1-oxo-1,2-dihydro-3-isoquinolinyl)methyl}-1H-isoindole-1,3(2H)-dione (0.48 g, 98.0%) as an amorphous.

reactant | 4-butoxy-6-ethoxy-3-chloromethyl-2-neopentyl-1(2H)-isoquinolinone | 1 mmol, 0.38 g | C(CCC)OC1=C(N(C(C2=CC=C(C=C12)OCC)=O)CC(C)(C)C)CCl | C21H30ClNO3
reactant | potassium phthalimide | 1.5 mmol, 0.28 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 2-{(4-butoxy-6-ethoxy-2-neopentyl-1-oxo-1,2-dihydro-3-isoquinolinyl)methyl}-1H-isoindole-1,3(2H)-dione | 0.48 g, 98.0% | C(CCC)OC1=C(N(C(C2=CC=C(C=C12)OCC)=O)CC(C)(C)C)CN1C(C2=CC=CC=C2C1=O)=O | C29H34N2O5
